US07241791B2
Step 1: 3-(4-methoxyphenyl)-7-phenyl-2-propyl-2H-indazole
To a stirred solution of 7-Chloro-3-(4-methoxyphenyl)-2-propyl-2H-indazole (0.200 g, 0.66 mmol) in anhydrous dioxane (6 mL) was added tris(dibenzylideneacetone)-dipalladium(0) (0.0128 g, 0.013 mmol) and 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene.HCl (0.011 g, 0.07 mmol). Phenylmagnesium bromide (0.4 mL, 1.20 mmol, 3M in diethyl ether) was added and the reaction heated to 80° C. for 3 hours. After this time an additional equivalent of reagents was added and the reaction heated for an additional 18 hours. The reaction mixture was treated with 1N aqueous hydrochloric acid solution and extracted with ethyl acetate. The organic layer washed with water and saturated aqueous sodium chloride solution. After drying over anhydrous magnesium sulfate, the organic phase was filtered and the filtrate evaporated in vacuo to yield crude title compound. The oil was purified by silica gel column chromatography eluting with hexane/ethyl acetate (5/1) to provide the title compound as a white solid (0.178 g, 0.52 mmol, 78%).

reactant | 7-Chloro-3-(4-methoxyphenyl)-2-propyl-2H-indazole | 0.66 mmol, 0.200 g | ClC1=CC=CC2=C(N(N=C12)CCC)C1=CC=C(C=C1)OC | C17H17ClN2O
reactant | HCl | 0.07 mmol, 0.011 g | Cl | ClH
reactant | Phenylmagnesium bromide | 1.20 mmol, 3M, 0.4 mL | C1(=CC=CC=C1)[Mg]Br
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium(0) | 0.013 mmol, 0.0128 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-(4-methoxyphenyl)-7-phenyl-2-propyl-2H-indazole | 0.52 mmol, 0.178 g, 78% | COC1=CC=C(C=C1)C=1N(N=C2C(=CC=CC12)C1=CC=CC=C1)CCC | C23H22N2O
